US09233979B2
(R)-1-(3-(ethylamino)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (50 mg, 0.154 mmol) and sodium trifluoromethanesulfinate (72.2 mg, 0.462 mmol) were taken in a solvent mixture containing DCE:water:DMSO in a ratio of 2.5:1:0.5, cooled to 0° C. and added tert-butyl hydroperoxide (0.107 mL, 0.771 mmol) and reaction gradually warmed to room temperature. After two more additions of tert-butyl hydroperoxide in equal concentrations in a span of 36 hours, the reaction was partitioned between DCM and aqueous sodium bicarbonate. The organics were washed with brine, dried with sodium sulfate and concentrated. Purification of residue by flash column (0-15% MeOH-DCM) gave (R)-1-(3-(ethylamino)-7-(trifluoromethyl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea. MS ESI [M+H]+ calc'd. 393. found 393. 1H NMR (ppm, 500 MHz, DMSO-d6) δ 8.60 (s, 1H), 7.40-7.30 (m, 4H), 7.20 (m, 1H), 7.10 (s, 1H), 4.97 (m, 1H), 3.29, (m, 2H), 1.38 (d, J=6.5 Hz, 3H), 1.25 (t, J=7.0 Hz, 3H).

reactant | (R)-1-(3-(ethylamino)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.154 mmol, 50 mg | C(C)NC1=NNC2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2 | C17H20N6O
reactant | sodium trifluoromethanesulfinate | 0.462 mmol, 72.2 mg | FC(S(=O)[O-])(F)F.[Na+]
reactant | DCE | ClCCCl | C2H4Cl2
reactant | tert-butyl hydroperoxide | 0.771 mmol, 0.107 mL | C(C)(C)(C)OO | C4H10O2
solvent | DMSO | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (R)-1-(3-(ethylamino)-7-(trifluoromethyl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | C(C)NC1=NNC2=C1C=NC(=C2C(F)(F)F)NC(=O)N[C@H](C)C2=CC=CC=C2 | C18H19F3N6O
